US06815451B2
7-Benzyloxy-1-(3,4-dichloro-benzyl)-6-methoxy-1,2,3,4-tetrahydro-isoquinoline
To a suspension of N-[2-(4-benzyloxy-3-methoxy-phenyl)-vinyl]-2-(3,4-dichloro-phenyl)-acetamide (13.3 g, 30 mmol) in CH3CN (100 mL) at rt is added dropwise phosphoroxychloride (8.1 mL, 13.5 g, 88 mmol). The resulting white suspension is heated to reflux, and the resulting yellow solution is heated at reflux for 3 h. The dark yellow solution is allowed to cool and is evaporated to a yellow oil. The oil is taken up in MeOH (100 mL) and evaporated to yield an orange solid. The material is redissolved in MeOH (100 mL) and the solution is cooled to 0° C. NaBH4 (3.61 g, 95 mmol) is added in portions with gas evolution and a strong exotherm. The resulting white suspension is stirred at rt for 16 h. The reaction mixture is partitioned between EtOAc (200 mL) and water (200 mL), and the aqueous phase is extracted with EtOAc (3×200 mL). The combined organic phase is washed with water and brine, and evaporated to provide the title compound as a faint yellow oil which is used without further purification.

reactant | N-[2-(4-benzyloxy-3-methoxy-phenyl)-vinyl]-2-(3,4-dichloro-phenyl)-acetamide | 30 mmol, 13.3 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=CNC(CC1=CC(=C(C=C1)Cl)Cl)=O)OC | C24H21Cl2NO3
reactant | phosphoroxychloride | 88 mmol, 8.1 mL, 13.5 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaBH4 | 95 mmol, 3.61 g | [BH4-].[Na+]
solvent | CH3CN | 100 mL | CC#N | C2H3N
solvent | MeOH | 100 mL | CO | CH4O
product | 7-Benzyloxy-1-(3,4-dichloro-benzyl)-6-methoxy-1,2,3,4-tetrahydro-isoquinoline | C(C1=CC=CC=C1)OC1=C(C=C2CCNC(C2=C1)CC1=CC(=C(C=C1)Cl)Cl)OC | C24H23Cl2NO2
